US07846929B2
To a solution of 2-(2-methylsulfanyl-ethyl)-isoindole-1,3-dione (400 mg) in methanol (10 mL) was added a solution of oxone (1.67 g) in water (10 mL) and the reaction stirred at room temperature for 16 h. The reaction was then diluted with water (20 mL) and extracted into dichloromethane (2×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4) and reduced in vacuo to give 2-(2-methanesulfonyl-ethyl)-isoindole-1,3-dione as a white solid.

reactant | 2-(2-methylsulfanyl-ethyl)-isoindole-1,3-dione | 400 mg | CSCCN1C(C2=CC=CC=C2C1=O)=O | C11H11NO2S
reactant | oxone | 1.67 g | OOS(=O)[O-].[K+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2-(2-methanesulfonyl-ethyl)-isoindole-1,3-dione | CS(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O | C11H11NO4S
